US09382238B2
To a mixture of 5-nitro-2-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-4(1H)-one (100 mg, 0.400 mmol) in DCE (10 mL) was added phosphoryl tribromide (138 mg, 0.480 mmol). The mixture was stirred at 85° C. for 1 h. Then the mixture was added to aqueous NaHCO3 solution. The mixture was extracted with EA (50 mL×2). The combined organic extracts were washed with brine, dried over MgSO4, filtered and concentrated to afford 4-bromo-5-nitro-2-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridine (60 mg, 0.096 mmol, 24.0% yield). TLC (PE/EA=10:1, Rf=0.6): 1H NMR (400 MHz, CD3OD): δ 8.74 (s, 1H), 6.83 (s, 1H), 1.54 (s, 6H). ES-LCMS m/z 312.9 (M+H).

reactant | 5-nitro-2-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridin-4(1H)-one | 0.400 mmol, 100 mg | [N+](=O)([O-])C=1C(C=C(NC1)C(C(F)(F)F)(C)C)=O | C9H9F3N2O3
reactant | phosphoryl tribromide | 0.480 mmol, 138 mg | P(=O)(Br)(Br)Br | Br3OP
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | 4-bromo-5-nitro-2-(1,1,1-trifluoro-2-methylpropan-2-yl)pyridine | 0.096 mmol, 60 mg, 24.0% yield | BrC1=CC(=NC=C1[N+](=O)[O-])C(C(F)(F)F)(C)C | C9H8BrF3N2O2
